US05571821
A solution of 5-amino-4-bromo-3-methylisoxazole (177 mg, 1.0 mmol) in dry THF (2 ml) was added to a suspension of sodium hydride (60% dispersion in mineral oil, 90 mg, 2.2 mmol) in dry THF (1 ml) at 0°-5° C. After stirring at 0°-5° C. for 5 min, the reaction was warmed to room temperature for 10 min to complete the reaction. The reaction mixture was re-cooled to 0° C., and 5-(3-isoxazolyl)thiophene-2-sulphonyl chloride (273 mg, 1.1 mmol), which had been dissolved in dry THF (2 ml), was added slowly. Stirring was continued for 1 h; during this period the reaction mixture slowly attained ambient temperature. THF was removed under reduced pressure. The residue was dissolved in water (10 ml), the pH was adjusted to 2-3 by adding concentrated HCl, and was extracted with methylene chloride (3×10 ml). The combined organic layers was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-isoxazolyl)thiophene-2-sulfonamide. The pure material was obtained by recrystallization using hexanes/ethyl acetate (160 mg, 41% yield), m.p. 120°-123° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | 1.0 mmol, 177 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | sodium hydride | 2.2 mmol, 90 mg | [H-].[Na+]
reactant | 5-(3-isoxazolyl)thiophene-2-sulphonyl chloride | 1.1 mmol, 273 mg | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C7H4ClNO3S2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(3-isoxazolyl)thiophene-2-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=NOC=C1)C | C11H8BrN3O4S2
